US04954507
A mixture of 0.3 g (1.01 mmole) 1-(1,1-dimethylethyl)-6-fluoro-7-chloro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid and 0.3 g (3.48 mmoles) piperazine in 1 mL pyridine was heated under reflux for 18 hours. After cooling the mixture was concentrated under reduced pressure. The residue was poured in 10 mL of 10% acetic acid. After filtration of little insoluble the solution was taken to pH 6.5, saturated with brine and extracted three times with dichloromethane. After evaporation the resulting solid obtained was purified in water to give 0.15 g of 1-(1,1-dimethylethyl)-1,4-dihydro-6-fluoro-7-piperazinyl-4-oxo-3-quinolinecarboxylic acid purified as in method 1.

reactant | 1-(1,1-dimethylethyl)-6-fluoro-7-chloro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.01 mmole, 0.3 g | CC(C)(C)N1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C14H13ClFNO3
reactant | piperazine | 3.48 mmoles, 0.3 g | N1CCNCC1 | C4H10N2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 1-(1,1-dimethylethyl)-1,4-dihydro-6-fluoro-7-piperazinyl-4-oxo-3-quinolinecarboxylic acid | 0.15 g | CC(C)(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C18H22FN3O3
